US07645771B2
3-Ethoxy-2,2-dimethyl-3-oxopropanoic acid (100 mg, 0.624 mmole) was added to a stirring suspension of 2.5 equivalents of PS-DCC from Argonaut and 3 equivalents of dimethylaminopyridine in DCM. To this was added methanesulfonamide (41.6 mg, 0.437 mmole). The solution was filtered of and concentrated to give 69.3 mg of ethyl 2,2-dimethyl-3-[(methylsulfonyl)amino]-3-oxopropanoate (67% yield crude). MS ES− 236 (M−H). 1H NMR (300 MHz, Chloroform-d) δ ppm 1.4 (t, J=6.7 Hz, 3H), 1.6 (s, 6H), 3.3 (m, 3H), 4.3 (m, 2H).

reactant | 3-Ethoxy-2,2-dimethyl-3-oxopropanoic acid | 0.624 mmole, 100 mg | C(C)OC(C(C(=O)O)(C)C)=O | C7H12O4
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | dimethylaminopyridine | 3 equivalents | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methanesulfonamide | 0.437 mmole, 41.6 mg | CS(=O)(=O)N | CH5NO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | ethyl 2,2-dimethyl-3-[(methylsulfonyl)amino]-3-oxopropanoate | 69.3 mg, 67% yield | CC(C(=O)OCC)(C(=O)NS(=O)(=O)C)C | C8H15NO5S
